US04282246
5-(2,3,5,6-Tetrafluorophenylthio)furan-3-carboxylic Acid
In an open flask, cuprous oxide (1.95 g., 13.7 mmoles) was combined with 2,3,5,6-tetrafluorothiophenol (5.0 g., 27.4 mmoles) in 40 ml. of dimethylformamide and heated at 140° C. for 2 hours. The reaction was cooled, 5-bromofuran-3-carboxylic acid (2.62 g., 13.7 mmoles) in 50 ml. of dimethylformamide was added, the reaction mixture refluxed for 2 hours, and product (2.75 g.) isolated according to the procedure of Example 9. Recrystallization from methanol/water gave purified 5-(2,3,5,6-tetrafluorophenylthio)furan-3-carboxylic acid (1.78 g., m.p. 150°-153° C., m/e 292).

reactant | 2,3,5,6-tetrafluorothiophenol | 27.4 mmoles, 5.0 g | FC1=C(C(=C(C=C1F)F)F)S | C6H2F4S
reactant | 5-bromofuran-3-carboxylic acid | 13.7 mmoles, 2.62 g | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2,3,5,6-Tetrafluorophenylthio)furan-3-carboxylic Acid | FC1=C(C(=C(C=C1F)F)F)SC1=CC(=CO1)C(=O)O | C11H4F4O3S
